US08614327B2
(S)-2-(bromomethyl)-4,4-difluoro-1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidine (230 mg, 0.59 mmol) was dissolved in ethyl acetate (5 mL) and TEA (90 mg, 124 μL, 0.89 mmol) and the flask was flushed with nitrogen. 10% Pd/C (58 mg, 0.05 mmol) catalyst was added and the reaction mixture was stirred overnight under an atmosphere of hydrogen. The reaction mixture was filtered, treated with 50% saturated NaHCO3, and extracted with ethyl acetate. The organic layer was dried over Na2SO4, filtered and concentrated to provide (R)-4-(4,4-difluoro-2-methylpyrrolidin-1-yl)-2-(trifluoromethyl)aniline as a purple oil (164 mg, 99% yield). 1H NMR (400 MHz, DMSO-d6) δ 6.81 (s, 2H), 6.58 (s, 1H), 4.92 (s, 2H), 4.07-4.01 (m, 1H), 3.74-3.63 (m, 1H), 3.60-3.50 (m, 1H), 2.75-2.60 (m, 1H), 2.22-2.11 (m, 1H), 1.10 (d, J=6.2 Hz, 3H).

reactant | (S)-2-(bromomethyl)-4,4-difluoro-1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidine | 0.59 mmol, 230 mg | BrC[C@H]1N(CC(C1)(F)F)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C12H10BrF5N2O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.05 mmol, 58 mg | [Pd] | Pd
product | (R)-4-(4,4-difluoro-2-methylpyrrolidin-1-yl)-2-(trifluoromethyl)aniline | 164 mg, 99% yield | FC1(C[C@H](N(C1)C1=CC(=C(N)C=C1)C(F)(F)F)C)F | C12H13F5N2
